US05194624
To a solution of 4-nitrobenzyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (0.28 g) in 1.2-dichloroethane (15 ml) was added rhodium (II) acetate (2 mg) under reflux. The mixture was reluxed for 30 minutes under nitrogen atmosphere and concentrated under reduced pressure to give a syrup. The syrup was dissolved in acetonitrile (15 ml) and N,N-diisopropyl-N-ethylamine (0.37 ml). Diphenyl chlorophosphate (0.16 ml) was added thereto at -10--5° C. in a nitrogen stream, followed by stirring at -10--5° C. for 30 minutes. To the solution were added a solution of (2S,4S)-2-(imidazol-1-yl)methyl-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.26 g) in acetonitrile (2 ml) at -30--25° C. and the mixture was stirred at 0-10° C. for 2 hours. The mixture was poured into ethyl acetate (75 ml), washed with water (50 ml ×2), dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on sili.COPYRGT.a gel (20 g) and eluted with a mixture of acetone and dichloromethane (50:50, V/V) to give 4-nitrobenzyl (4R,5S,6S)-6-[(lR)-1-hydroxyethyl]-3-[(2S,4S)-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl -7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate (0.19 g).

reactant | 4-nitrobenzyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 0.28 g | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O)=O)=O | C17H18N4O7
reactant | Diphenyl chlorophosphate | 0.16 ml | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | (2S,4S)-2-(imidazol-1-yl)methyl-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.26 g | N1(C=NC=C1)C[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N4O4S
reactant | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | 1.2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | N,N-diisopropyl-N-ethylamine | 0.37 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | rhodium (II) acetate | 2 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 4-nitrobenzyl (4R,5S,6S)-6-[(lR)-1-hydroxyethyl]-3-[(2S,4S)-2-(imidazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl -7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate | 0.19 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=NC=C1)C | C33H34N6O10S
